US05688807
To a stirred, cooled (-5° C.) solution of 2-bromo-4-methylaniline (50.54 g, 0.272 mol.) in concentrated HCl solution (200 mL) was added sodium nitrite (18.9 g, 0.274 mol.) in water (200 mL) dropwise at such a rate as to maintain temperature below 5° C. After complete addition, the mixture was further stirred at 5° C. for 30 minutes. A solution of tin chloride monohydrate (185.4 g, 0.822 mol.) in concentrated HCl (total volume 400 mL) was added dropwise again maintaining temperature below 5° C. After complete addition and 30 minutes of further stirring, the mixture was placed in the freezer overnight. The light brown solid which precipitated was isolated by filtration and washed with cold brine followed by a solution of petroleum ether/diethyl ether (2/1 by volume). This solid was slowly added to an ice cooled mixture of 50% sodium hydroxide solution/ethyl acetate. The mixture was extracted with ethyl acetate and the organic phase dried over magnesium sulfate. After filtration, the solution was concentrated to 400 mL total volume, diluted with diethyl ether (1.5 L) and treated with dry HCl. The product, 2-bromo-4-methylphenylhydrazine hydrochloride (52.4 g) was isolated as a light brown solid and used without further purification.

reactant | 2-bromo-4-methylaniline | 0.272 mol, 50.54 g | BrC1=C(N)C=CC(=C1)C | C7H8BrN
reactant | sodium nitrite | 0.274 mol, 18.9 g | N(=O)[O-].[Na+]
reactant | tin chloride monohydrate | 0.822 mol, 185.4 g | O.[Sn](Cl)(Cl)(Cl)Cl
solvent | HCl | 200 mL | Cl | ClH
solvent | water | 200 mL | O | H2O
product | 2-bromo-4-methylphenylhydrazine hydrochloride | 52.4 g | Cl.BrC1=C(C=CC(=C1)C)NN | InChI=1S/C7H9BrN2.ClH/c1-5-2-3-7(10-9)6(8)4-5;/h2-4,10H,9H2,1H3;1H
